***8T_SRAM***
.inc  "C:\synopsys\65nm_bulk.pm"

***  設定電源
Vvdd  vdd  gnd  dc  0.8v
*VBL   BL   gnd  dc  0v
VBL   BL   gnd  dc  0.8v
*VRDBL   RDBL   gnd  dc  0.8v

.global  vdd  gnd

*** INV
.subckt    INV    input    output

MP1    output    input    vdd    vdd    pmos    l=0.065u   w=3u
MN1    output    input    gnd    gnd    nmos    l=0.065u   w=1u

.ends

***  輸入訊號
VWL  WL  gnd  pulse(0v  0.8v  2n  0.01n  0.01n  2n  4n)
*VBL  BL  gnd  pulse(0v  0.8v  0n  0.01n  0.01n  2n  4n)
VBLB  BLB  gnd  pulse(0v  0.8v  4n  0.01n  0.01n  4n  8n)

VRDWL  RDWL  gnd  pulse(0v  0.8v  0n  0.01n  0.01n  2n  4n)

***  欲測試的子電路
MN5    BLB    WL    Q_bar    gnd    nmos    l=0.065u   w=1u
Xinv1  Q    Q_bar    INV

MN8    RDBL    RDWL    node1    gnd    nmos    l=0.065u   w=1u
MN9    node1    Q_bar    gnd    gnd    nmos    l=0.065u   w=1u

Xinv2  Q_bar   Q    INV
MN6    Q     WL    BL    gnd    nmos    l=0.065u   w=1u

.print v(VBLB)
.print i(VBLB)

.print Power_BL='v(vdd)*i(VBL)'
.print Power_BLB='v(vdd)*i(VBLB)'

.tran  0.1ns  9ns
.option  post
.temp  25
.end
