***6T_SRAM***
.inc  "C:\synopsys\65nm_bulk.pm"

***  設定電源
Vvdd  vdd  gnd  dc  0.8v
*VWL  WL  gnd  dc  0.8v
*VBLB  BLB  gnd  dc  0.8v
*VBL   BL   gnd  dc  0.8v

.global  vdd  gnd

*** INV
.subckt    INV    input    output

MP1    output    input    vdd    vdd    pmos    l=0.065u   w=3u
MN1    output    input    gnd    gnd    nmos    l=0.065u   w=1u

.ends

***  輸入訊號
VWL  WL  gnd  pulse(0v  0.8v  1n  0.01n  0.01n  1n  8n)
VBL  BL  gnd  pulse(0v  0.8v  0n  0.01n  0.01n  2n  4n)
VBLB  BLB  gnd  pulse(0v  0.8v  2n  0.01n  0.01n  2n  4n)

***  欲測試的子電路
MN5  BLB  WL  Q_bar   gnd  nmos  l=0.065u  w=1u

Xinv1  Q  Q_bar  INV
Xinv2  Q_bar  Q  INV

MN6  Q  WL  BL   gnd  nmos  l=0.065u  w=1u

.tran  0.1ns  7ns
.option  post
.temp  25
.end
